* Spice library implementing logic gates in discrete resistor-transistor-logic (RTL)
* 2021-Nov-01  cpldcpu

* General notes:
* The load resistor in all cells is at the input, the output is open collector.
* This helps to automatically adjust biasing, but means that an additonal pull-up
* resistor has to be added to any open output that does not have internal connections.

* Supported gate types:
* NOT
* NAND2
* NAND3
* NOR2
* NOR3
* AOI2_2
* DFF

* Global nodes:
* VCC       positive supply
* VEE       negative supply

* Global constants
* RL        Load resistor value
* RB        Base resistor value

* Uses 2N7002 transistor model pins: D G S

.SUBCKT nm_NOT A Y
X1 Y A VEE 2N7002   
R1 VCC Y {RL}
.ENDS nm_NOT

.SUBCKT nm_BUF A Y
X1 A B NOT
X2 B Y NOT
.ENDS nm_NOT

.SUBCKT nm_NOR2 A B Y
X1 Y A VEE 2N7002   
X2 Y B VEE 2N7002   
R1 VCC Y {RL}
.ENDS nm_NOR2

.SUBCKT nm_NOR3 A B C Y
X1 Y A VEE 2N7002   
X2 Y B VEE 2N7002   
X3 Y C VEE 2N7002   
R1 VCC Y {RL}
.ENDS nm_NOR3

.SUBCKT nm_NAND2 A B Y
X1 Y    A N001 2N7002   
X2 N001 B VEE  2N7002   
R1 VCC Y {RL}
.ENDS nm_NAND2

.SUBCKT nm_NAND3 A B C Y
X1 Y    A N001 2N7002   
X2 N001 B N002 2N7002   
X3 N002 C VEE  2N7002   
R1 VCC Y {RL}
.ENDS nm_NAND3

.SUBCKT nm_AOI2_2 A B C D Y
X1 Y    A N001 2N7002   
X2 N001 B VEE  2N7002   
X3 Y    C N002 2N7002   
X4 N002 D VEE  2N7002   
R1 VCC Y {RL}
.ENDS nm_AOI2_2


*.SUBCKT TBUF E A Y
*Q1 A N001 Y 0 RTL_NPN
*R1 E N001 {RB}
*R2 VCC A {RL}
*R3 VCC E {RL}
*.ENDS NOT

*.SUBCKT NOTb A base Y
*Q1 Y base VEE 0 RTL_NPN
*R1 VCC A {RL}
*R2 base A {RB}
*.ENDS NOT

*.SUBCKT DLATCH3Tn E D Qn
*X1 E D N001 TBUF
*X2 N002 N001 Qn NOTb
*X3 Qn N002 NOT
*.ENDS DLATCH

.SUBCKT PHLATCH E D Q
X1 D nE N001 nm_NOR2
X2 E Q nQ nm_NOR2
X3 N001 nQ Q nm_NOR2
X4 E nE nm_NOT
.ENDS DLATCH

.SUBCKT DFF7T C D Q
X1 nC D t DLATCH3Tn
X2 C t Q DLATCH3Tn
X3 C nC NOT
.ENDS DFF

.SUBCKT nm_DFF C D Q
X1 nC D t PHLATCH
X2 C t Q PHLATCH
X3 C nC nm_NOT
.ENDS nm_DFF
